* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\SwitchedModeController.asc
XU1 NC_01 FB_INPUT I_SENSE RC_OSC 0 PWM_IN V_SUPPLY N004 LT1242
V1 V_SUPPLY 0 15
R1 N004 RC_OSC 12k
C1 RC_OSC 0 220µ
C2 N004 0 0.1µ
M2 FB_INPUT N003 I_SENSE I_SENSE IPP052NE7N3
R4 P001 FB_INPUT 2.5
L1 R_SENSE_L P001 34m
D1 FB_INPUT R_SENSE_H MBR735
L2 V_SUPPLY R_SENSE_H 1n
R5 N003 PWM_IN 63
R6 0 PWM_IN 10K
R7 R_SENSE_H R_SENSE_L 0.007
V3 N001 0 3
V4 N002 0 1
R2 I_SENSE 0 4
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.mos
* Line Inductance
* Electromagnet
.tran 1
.lib LT1242.sub
.backanno
.end
