* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\SwitchedModeController.asc
V1 V_MAG 0 15
M2 FB_INPUT N003 0 0 IPP052NE7N3
R4 P001 FB_INPUT 2.5
L1 R_SENSE_L P001 34m
D1 FB_INPUT R_SENSE_H MBR735
L2 V_MAG R_SENSE_H 1n
R5 N003 PWM_IN 63
R6 0 PWM_IN 10K
R7 R_SENSE_H R_SENSE_L 0.007
V3 V_SUPPLY 0 5
V4 N001 0 1
XU1 N002 0 N004 N005 V_SUPPLY PWM_IN LTC6992-1
R3 N002 0 154K
R8 N002 N004 154K
R9 N005 0 182K
R10 V_SUPPLY N005 976K
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.mos
* Line Inductance
* Electromagnet
.tran 0.1
.lib LTC6992-1.sub
.backanno
.end
